US08809339B2
methyl 3-(2-(2-phenylpyrimidin-5-ylcarbamoyl)-4-(piperidin-1-yl)-phenylcarbamoyl)benzoate
To a solution of 2-amino-N-(2-phenylpyrimidin-5-yl)-5-(piperidin-1-yl)benzamide (2 g, 3.75 mmol, 1.00 equiv, 70%) in dichloromethane (30 mL) was added 3-(methoxycarbonyl)benzoic acid (1160 mg, 6.12 mmol, 1.20 equiv, 95%), EDC.HCl (2040 mg, 10.20 mmol, 2.00 equiv, 95%), and 4-dimethylaminopyridine (660 mg, 5.14 mmol, 1.00 equiv, 95%) and the resulting solution was stirred for 3 h at 25° C. in an oil bath. The mixture was concentrated under vacuum, diluted with 100 mL of ethyl acetate, washed with 1×100 mL of brine and then the organic layer was concentrated under vacuum. The residue was applied onto a silica gel column and eluted with petroleum ether/ethyl acetate (2:1) to afford 1200 mg (60%) of product as a green to yellow solid.

reactant | 2-amino-N-(2-phenylpyrimidin-5-yl)-5-(piperidin-1-yl)benzamide | 3.75 mmol, 2 g, 1.00 equiv | NC1=C(C(=O)NC=2C=NC(=NC2)C2=CC=CC=C2)C=C(C=C1)N1CCCCC1 | C22H23N5O
reactant | 3-(methoxycarbonyl)benzoic acid | 6.12 mmol, 1160 mg, 1.20 equiv | COC(=O)C=1C=C(C(=O)O)C=CC1 | C9H8O4
reactant | EDC.HCl | 10.20 mmol, 2040 mg, 2.00 equiv | CCN=C=NCCCN(C)C.Cl
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 5.14 mmol, 660 mg, 1.00 equiv | CN(C1=CC=NC=C1)C | C7H10N2
product | methyl 3-(2-(2-phenylpyrimidin-5-ylcarbamoyl)-4-(piperidin-1-yl)-phenylcarbamoyl)benzoate | 1200 mg, 60% | C1(=CC=CC=C1)C1=NC=C(C=N1)NC(=O)C1=C(C=CC(=C1)N1CCCCC1)NC(=O)C=1C=C(C(=O)OC)C=CC1 | C31H29N5O4
